Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
events concerning for seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old right handed man with MS complicated by PML
while on Tysabri followed by ___ presenting with report of
possible seizures on Keppra 1250 mg BID. Patient reports 
episodes
in question started about one month ago, for the last week
occurring daily. Patient is followed by outpatient neurologist
Dr. ___ (cell ___. History is obtained from
patient, patient's girlfriend of ___ years in person (though
currently separated), and Dr. ___ phone. 

Patient and girlfriend report that patient diagnosed with MS in
___ in the setting of left eye decreased vision and right sided
weakness. Patient maintained on Tysabri for years until 
developed
PML in ___, per current primary neurologist Dr. ___ was followed by ___. Patient was referred to Dr. ___
he developed PML. Per report had a right frontal lesion, had
initially slight cognitive deficits then became overtly frontal,
then improved somewhat. 

Patient reports that previously his MS was largely characterized
by fatigue but that during this period he was diffusely quite
weak, very ill, hospitalized for four months. Around this time
patient reports that he had about 4 episodes of staring, being
unresponsive for ___ minutes spread out over time (months in
between). At some point over this time patient was started on
Keppra 1000 mg BID, and he was maintained on this dose until
about a month ago. 

About a month ago patient began experiencing different episodes.
He reports that these seem to start on the inside of his right
thigh with stiffening and cramping, then stiffening and low
amplitude shaking of bilateral lower extremities, shoulders, and
possibly arms, as well. Patient reports that when this happens 
he
will grab on to the railing of his bed. Sometimes patient 
reports
he has preserved awareness during and tries to keep track of the
clock (he thinks at times that he maintains awareness throughout
the entire episode but does, of note, have baseline short-term
memory difficulties). Other times patient will lose awareness 
and
come to holding onto the bed rail. The episodes typically last
___ minutes and are followed by patient being confused, tired,
sore, out of it for about 10 minutes or so, resting and getting
his bearings. Per report patient's son has witnessed several of
these episodes and has been unable to get father to respond
during. Patient reports son will try to put pressure on his
extremities to stop them from shaking and that this possibly
helps. 

Patient and girlfriend report that when these new episodes
started patient went to an OSH ED (possibly ___,
also possibly ___ at least at one point) in the
setting of an episode of unresponsiveness, not knowing where he
was or who he was (unclear if this was following one of the
shaking spells). At that time Keppra was increased to 1250 mg 
BID
and then about two weeks later to 1500 mg BID. Per patient the
episodes seemed better on 1500 mg BID, had seemed to quiet down,
so Keppra was weaned to 1250 mg BID. Per patient neurologist Dr.
___ on the phone, these episodes seemed to be better controlled
on Keppra 1500 mg BID but patient had cognitive slowing so was
decreased back to 1250 mg BID. Patient denies side effects on
Keppra 1500 mg BID and does not recall having had cognitive
slowing. 

Over the past week, patient reports he is now having these
shaking spells about daily, some days more than once. 

Per Dr. ___ had considered starting Lamictal given patient
per report with preserved awareness (at least when episodes
start) and also with known per report right frontal lesion
thought ___ PML (suggesting possibly focal seizures). However,
given increasing frequency of episodes, was concerned about
starting a medication requiring slow uptitration. As such,
referred patient to ___ ED for possible medication adjustment
and evaluation (including possible EEG) in the setting of these
frequent and prolonged spells. 

Patient reports that he has never had an EEG. Reports that his
last MRI was two weeks ago. 

Reports baseline difficulties thinking and speaking 
(particularly
with short term memory often repeating himself and with reading 
-
reports that this takes significant effort and is slow); patient
and girlfriend estimate that this has been about stable since 
his
PML.

Also reports baseline slightly decreased vision in the left eye,
left facial weakness, left greater than right extremity weakness
(reports that was initially weak on the right around the time of
MS diagnosis but then became more weak on the left with PML,
especially weak in the left hand), baseline muscle spasms and
cramping, spasticity throughout but particularly in his right
lower extremity. 

At baseline patient walks short distances with a walker, uses a
manual chair for longer distances. Typically does ___ (previously
twice per week then spaced to weekly). Has not had ___ in over 5
weeks given he gets this through ___ and ___ 
is
currently on ___ break. Reports increasing tightness, muscle
cramping, spasms in the setting of not getting his ___. Also
normally tries to walk outside if possible, is not possible in
the ___. Son does stretch patient night but still has noticed
recent worsening of spasms and tightness. 

Episodes per report typically consist of whole body shaking, at
times with preserved awareness, lasting ___ minutes. Also with
staring spells, per report he is conscious during but reports he
is unable to respond. 

Patient is current maintained on Copaxone (M, W, F - unknown
dose) as well as maraviroc for ___, likely to wean off 
maraviroc
in the near future.  

Reports right shoulder radiating to the elbow and then back
across his chest while sitting or lying certain ways for about
the past two weeks. 

No recent illnesses. Denies recent vision changes, diplopia,
vertigo, dizziness, tinnitus, hearing difficulty, new weakness,
new numbness apart from the intermittent right
arm/chest/shoulder. Denies recent changes in cognition. 

Denies recent fevers, cough, congestion, shortness of breath,
chest pain, palpitations, abdominal pain, constipation, 
diarrhea,
rashes. Endorses baseline thirst, dry mouth, and significant
diaphoresis to the point that he drinks 72 ounces of water 
before
bed nightly and wears a condom catheter overnight. Sleeps about
___ hours each night. Needs to take nighttime medications to 
have
muscle spasms and discomfort under control to be able to sleep. 

Endorses low mood, feeling like he is not adding anything.  
 
Past Medical History:
MS
PML
___ seizures
Right hip replacement
 
Social History:
___
Family History:
Son ___ is healthy.
 
Physical Exam:
ADMISSION / DISCHARGE EXAM

GEN - non-able bodied gentleman lying in bed uncomfortable and 
frustrated and later tearful, with occasional muscle spasms and 
tremulousness associated but in between non-toxic appearing
HEENT - NC/AT, MMM; poor dentition
NECK - full ROM, no meningismus
CV - RRR no MRG
RESP - normal WOB
ABD - soft, NT, ND
EXTR - atraumatic, WWP; feet somewhat edematous (non-pitting) 
with mild ankle contractures

NEUROLOGICAL EXAMINATION:
MS - Awake, alert, oriented to hospital, month, year but not 
date. Able to relate history without difficulty. Somewhat 
verbose/chatty and garrulous, at times a bit tangential. 
Attention to examiner easily attained but may again become a bit 
tangential; able to recall days of week backwards, initially 
skips ___ but then with single prompt able to self-correct. 
Naming intact to low frequency objects (pen, thumb, fingernail). 
Recalls a fairly coherent history, though again at times 
tangential. During examination patient gets tearful when his 
deficits are revealed via the exam (when has difficulty with 
strength testing, for example) and then expresses low mood and 
some hopelessness when discussing his healthcare proxy and code 
status.  Structure of speech demonstrates fluency with full 
sentences, and normal prosody. No paraphasic errors. Intact 
repetition and comprehension. No evidence of apraxia or neglect.

CN - Pupil on the left larger at baseline (4.5 vs 3mm) but 
constricts well to light bilaterally without obvious evidence of 
APD. VF full to number counting. [III, IV, VI] EOMI, no 
nystagmus. [V] V1-V3 without deficits to light touch 
bilaterally. [VII] Left lower facial droop at rest and with 
slower and incomplete activation of left lower face. [VIII] 
Hearing intact to finger rub on right, not on left (patient 
reports at times as cerumen). [IX, X] Palate elevation 
symmetric. No dysarthria. [XI] SCM/Trapezius strength ___ on 
right, trapezius 4- on left. [XII] Tongue midline.

MOTOR - Spasticity throughout, more notably in right lower 
extremity and with mild ankle contractures bilaterally. Right 
IP, quad, hamstring strength limited somewhat by patient 
beginning to have muscle spasms as testing. 
=[Delt] [Bic] [Tri] [ECR]  [IP] [Quad] [Ham] [TA] [Gas] 
  [C5]  [C5]  [C7]  [C6]   [L2]  [L3]  [L5]  [L4] [S1]  
L  4-     4-     5    3      4    5      5     5    3+     
R  5      5     5     5      3    5      3     5    5     

SENSORY - No deficits to light touch or temperature of forearms 
or shins bilaterally; deferred more extensive sensory testing as 
patient tearful at this point in the examination. 

REFLEXES - pec jerks, crossed adductors and spreading 
bilaterally. No ankle clonus though somewhat limited testing 
given mild ankle contractures*. 
=[Bic]  [___] [Quad] [Gastroc]
L 3+      3+      3+      1*        
R 3+      3+      3+      1*        
Toes upgoing bilaterally.

COORD - Deferred given patient tearful.

GAIT - Deferred; patient with known difficulty ambulating and 
tearful.

 
Pertinent Results:
==========
LABORATORY
==========
Admission labs:
     13.1     MCV 90 
6.6 >---< 287 
     37.9  
Urine Benzos Pos ** Patient known to be on Valium 
Urine Barbs, Opiates, Cocaine, Amphet, Mthdne, Oxycodone 
Negative
U/A benign

___ 07:11AM BLOOD ___ PTT-28.8 ___
___ 07:11AM BLOOD Glucose-85 UreaN-16 Creat-0.7 Na-138 
K-4.0 Cl-103 HCO3-23 AnGap-16
___ 07:10AM BLOOD ALT-29 AST-29 CK(CPK)-426* AlkPhos-103 
TotBili-0.4
___ 07:11AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.0
___ 07:10AM BLOOD VitB___-___
___ 07:10AM BLOOD TSH-1.8

=================
OTHER DIAGNOSTICS
=================
EEG - ___
This is continuous EEG recording captures one pushbutton 
activation for right shoulder shrugging, and variable right arm, 
torso and head tremors which last for one minute and has no 
electrographic correlate; consistent with a psychogenic 
non-epileptic event (PNES). Otherwise the background activity is 
normal and a well-organized 9 Hz posterior dominant rhythm is 
seen. There are no seizures or epileptiform discharges. 

EEG - ___
This is continuous EEG recording that captured two pushbutton 
activations where there was no electrographic correlate. The 
background 
activity is normal. No focal, lateralized or epileptiform 
discharges were 
seen. 

EEG - ___
This is a normal continuous ICU monitoring study. There are no 
pushbutton activations. There are no electrographic seizures or 
epileptiform discharges. 
 
Brief Hospital Course:
Mr. ___ is a ___ M w PMHx MS ___ PML / ___ (R 
frontal lesion) and suspected seizures (staring spells, on 
keppra) who is admitted for characterization for a new spell 
type (severe painful R thigh spasm followed by whole body 
spasms, no LOC during event per patient but sleepy/confused/weak 
after, occurring multiple times per day). 
He was hooked up to cvEEG and multiple stereotypical "spasm" 
spells were captured. There was no electrographic correlate. On 
video, spells appear more consistent with PNES than pain 
reactions or muscle spasms. 
His home LEV was then discontinued in an attempt to capture his 
other spell semiology ("staring"). Despite this, no spells were 
captured over several days. Keppra was re-started at discharge 
given staring spells were not captured and patient is at risk 
for seizures.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 30 mg PO QHS 
2. Diazepam 10 mg PO QHS 
3. Maraviroc 300 mg PO BID 
4. Baclofen 10 mg PO 1 IN AM, 2 IN ___ 
5. LevETIRAcetam 1250 mg PO BID 
6. Gabapentin 300 mg PO QHS 
7. Tizanidine 18 mg PO TID 
8. Copaxone (glatiramer) 40 mL subcutaneous ___ 
9. Vitamin D ___ UNIT PO DAILY 
10. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Nicotine Patch 21 mg TD DAILY  
2.  Baclofen 10 mg PO 1 IN AM, 2 IN ___  
3.  Copaxone (glatiramer) 40 mL subcutaneous ___  
4.  Diazepam 10 mg PO QHS 
RX *diazepam 10 mg 1 PO by mouth at bedtime Disp #*7 Tablet 
Refills:*0 
5.  Gabapentin 300 mg PO QHS  
6.  LevETIRAcetam 1250 mg PO BID  
7.  Maraviroc 300 mg PO BID  
8.  Mirtazapine 30 mg PO QHS  
9.  Multivitamins 1 TAB PO DAILY  
10.  Tizanidine 18 mg PO TID  
11.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Myoclonic jerks

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You presented with episodes of full body stiffening and shaking. 
You had brain wave (EEG) monitoring to evaluate whether these 
episodes were seizures - this test showed that these events were 
NOT seizures. 

We will continue you on Keppra at time of discharge given you 
also have staring spell episodes which may represent seizures.

Please continue to follow-up with your outpatient neurologist 
Dr. ___.

We wish you all the best!
 
Followup Instructions:
___